US07049444B2
3-Benzyl-6-methyl-6-(3-nitrophenyl)-3-azabicyclo[3.1.0]hexan-2-one
A solution of ethyl 3-(chloromethyl)-2-methyl-2-(3-nitrophenyl)cyclopropane carboxylate (Preparation 5, 10 g, 33.6 mmol) in benzylamine (21.6 g, 201.6 mmol) was heated to 160° C. for 16 h. The mixture was cooled, 2N hydrochloric acid was added (200 ml), and the mixture was extracted with dichloromethane (3×250 ml). The combined extracts were dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by silica (600 g) column chromatography eluting with dichloromethane, then a gradient of dichloromethane:ethyl acetate ending with pure ethyl acetate. Appropriate fractions were combined and concentrated in vacuo to give the title compound as an amber oil (6 g, 55%).

reactant | ethyl 3-(chloromethyl)-2-methyl-2-(3-nitrophenyl)cyclopropane carboxylate | 33.6 mmol, 10 g | ClCC1C(C1C(=O)OCC)(C1=CC(=CC=C1)[N+](=O)[O-])C | C14H16ClNO4
reactant | benzylamine | 201.6 mmol, 21.6 g | C(C1=CC=CC=C1)N | C7H9N
reactant | hydrochloric acid | 2N | Cl | ClH
product | 3-Benzyl-6-methyl-6-(3-nitrophenyl)-3-azabicyclo[3.1.0]hexan-2-one | 6 g, 55% | C(C1=CC=CC=C1)N1C(C2C(C2C1)(C1=CC(=CC=C1)[N+](=O)[O-])C)=O | C19H18N2O3
